US05958942
3-Amino-5-ethoxycarbonylimidazo[1,2-a]pyridine
To a solution of 2.35 g of 5-ethoxycarbonyl-3-nitroimidazo[1,2-a]pyridine in 100 ml of ethanol was added 10% Pd-C (wet, 470 mg). The mixture was stirred for 110 hours at room temperature under hydrogen atmosphere. The catalyst was filtered off and washed with ethanol. The filtrate and the washing were combined, and the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to afford 891 mg of the desired compound (43.4%, a dark reddish oil).

reactant | 5-ethoxycarbonyl-3-nitroimidazo[1,2-a]pyridine | 2.35 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)[N+](=O)[O-] | C10H9N3O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd-C | 470 mg | [Pd] | Pd
product | 3-Amino-5-ethoxycarbonylimidazo[1,2-a]pyridine | 891 mg | NC1=CN=C2N1C(=CC=C2)C(=O)OCC | C10H11N3O2
